US07960552B2
A stirred suspension of 6-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylic acid (179 g, 0.335 mol) in ethanol (2.6 L) was treated with 1 N potassium tert-butoxide in tert-butyl alcohol (350 mL) and stirred at room temperature under N2 for 1 hour. The mixture was then heated to a gentle reflux for 2 hours and was stirred overnight at room temperature. The suspension was filtered, then the filter cake was washed with hexane, combined with 5 g of similarly prepared material and dried at 60° C. in a vacuum oven overnight to yield 6-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylic acid potassium salt as a beige solid (181 g, 84%). 1H NMR (400 MHz, DMSO-d6): 8.25 (d, J=9 Hz, 1H), 8.18 (d, J=9 Hz, 1H), 8.08 (d, J=2 Hz, 1H), 8.02 (d, J=8 Hz, 1H), 7.94 (dd, J=2, 9 Hz, 1H), 7.68 (d, J=9 Hz, 2H), 7.62 (d, J=8 Hz, 2H), 7.53 (dd, J=7, 9 Hz, 1H), 6.90 (d, J=9 Hz, 2H), 4.86 (s, 2H), 3.46 (m, 1H), 1.32 (d, J=7 Hz, 6H). ES-LCMS m/z 533 (M+H)+.

reactant | 6-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylic acid | 0.335 mol, 179 g | ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1COC1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1)C(=O)O)C(C)C | C29H22Cl2N2O4
reactant | potassium tert-butoxide | 1 N | CC(C)([O-])C.[K+]
solvent | ethanol | 2.6 L | C(C)O | C2H6O
solvent | tert-butyl alcohol | 350 mL | C(C)(C)(C)O | C4H10O
product | 6-[4-({[3-(2,6-dichlorophenyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylic acid potassium salt | 181 g, 84% | [K+].ClC1=C(C(=CC=C1)Cl)C1=NOC(=C1COC1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1)C(=O)[O-])C(C)C | InChI=1S/C29H22Cl2N2O4.K/c1-16(2)28-21(27(33-37-28)26-22(30)4-3-5-23(26)31)15-36-20-10-6-17(7-11-20)18-8-12-24-19(14-18)9-13-25(32-24)29(34)35;/h3-14,16H,15H2,1-2H3,(H,34,35);/q;+1/p-1
